US04738972
2-Phenyl-1,2,3,4-tetrahydroquinoline
By the 3-step method of Preparation E, substituting 1M phenyllithium in ether for the benzylmagnesium bromide solution, quinoline (25 g, 0.194 mol) was converted to present title product, 22.4 g, as an oil.

reactant | phenyllithium | 1M | C1(=CC=CC=C1)[Li]
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
reactant | quinoline | 0.194 mol, 25 g | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ether | CCOCC | C4H10O
product | 2-Phenyl-1,2,3,4-tetrahydroquinoline | C1(=CC=CC=C1)C1NC2=CC=CC=C2CC1 | C15H15N
